*$
*CSD83325L
***********************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
**Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD83325L
* Date: 02/02/2015
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide:
* Datasheet: SLPS494 –NOVEMBER 2014
* Model Version: Final 1.00
**
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
**********************************************************************
**********************************************************************
*                                                                    *
* CSD83325L   -  PSpice Model for use with OrCAD                     *
*                                                                    *
**********************************************************************
**********************************************************************
* Characteristics:
*   Technology:   NCH 30/20
*
**********************************************************************
* Model History: theoritical
*   tr, 11/06/2014
*    
**********************************************************************
* SUBCKT Definition:  1=S1  2=S2  3=G1	4=G2  5=S3  6= S4
.SUBCKT	CSD83325L	1	2	3	4   5   6
.PARAM  ptrc1    	2.75e-3  
.PARAM  ptrc2    	03.00e-6

X1	D1	3	1	N83325
X2	D2	4	2	N83325
R_R1    5  1  1u  TC=0,0 
R_R2    6  2  1u  TC=0,0 
RD	D1	D2 7.824e-3	TC=2.75e-3,3.00e-6
*RD	D1	D	RTEMP 8.400e-3	TC1=2.50e-3 TC2=3.00e-6
.ends
*$

* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT N83325  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.param	 AAN83325	1.58
.PARAM  ptrc1    	2.75e-3  
.PARAM  ptrc2    	03.00e-6
.PARAM  pwidthP  	{AAN83325/0.8*2}
.PARAM  pwidth   	{pwidthP*1e6}
.PARAM  perimP   	{2.1*pwidthP}
.PARAM  perim    	{perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1		1	5	6	6	NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
DBD		3	1	 DBD
CBD0  	1  	3   3e-12
RBD0  	1  	3   1e10
DDG1  	1	101	DD
DDG2  	2	101	DD
RGG		2	5	300
RSP   	6	3	0.15e-3
DESD1	2	30	DDZ
DESD2	3	30	DDZ
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 550
+ UA     = 8.0e-9        UB     = 0.0e-19      A0     = 0.9
+ AGS    = 0.0           A1     = 0.0          A2     = 0.9
+ LINT   = 0.055e-6      VOFF   = -0.30        NFACTOR= 1.7
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 3.00          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1.00e-18		CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.50
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = -01.00e-9
+ UB1    = 5.0e-17      
* PROCESS PARAMETERS
+ TOX    = 2.50e-8       XJ     = 3e-7          NCH    = 1.275e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 25            VTO    = -1.0          IS     = 6.0e-14
+ TOX    = 3.0e-8        NSUB   = 2.0e17		GAMMA  = 15
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
*******************************************************************
.MODEL DBD D (CJO=1.35e-10 VJ=1.0 M=0.3 TNOM=25
+ FC=0.5 TT=2e-09 XTI=0.0 BV=13.2
+ IS=3.0e-11 N=1.07 RS=1.0e-2 TRS1=4.0e-3)
*******************************************************************
.MODEL DD  D (CJO=4.25e-010 VJ=0.9 M=0.50 IS=1e-13 RS=0.1 TNOM=25)
*******************************************************************
.MODEL DDZ D (CJO=1e-011 VJ=0.9 M=0.9 IS=1e-13 RS=1.0e+1 TNOM=25 bv=12.1)
*******************************************************************

*******************************************************************
.ENDS N83325  
*$

